US07205297B2
Preparation of 4-chloro-2-diisopropylaminomethyleneamino-5-phenylethynylpyrimidine
A mixture of 2.46 g 4-chloro-2-diisopropylaminomethyleneamino-5-iodopyrimidine, 7.5 mL triethylamine, 0.064 g copper iodide, 0.12 g dichlorobis(triphenyl)phosphine palladium II and 0.9 mL phenylacetylene was stirred under nitrogen at room temperature for two days. The dark brown mixture was evaporated in vacuo at a bath temperature of 30–35° C. The residue was partitioned between dichloromethane and water. The organic phase was washed thrice with water, dried over sodium sulfate, filtered and evaporated to yield 3.37 g of a dark brown oil. The residue was dissolved in hexanes and purified by column chromatography on silica gel, eluting successively with hexanes, 1:1 dichloromethane/hexanes and dichloromethane. The product was obtained from the latter eluant to yield after evaporation, 1.69 (74%) g of 4-chloro-2-diisopropylaminomethyleneamino-5-phenylethynylpyrimidine.

reactant | 4-chloro-2-diisopropylaminomethyleneamino-5-iodopyrimidine | 2.46 g | ClC1=NC(=NC=C1I)N=CN(C(C)C)C(C)C | C11H16ClIN4
reactant | phenylacetylene | 0.9 mL | C1(=CC=CC=C1)C#C | C8H6
catalyst | copper iodide | 0.064 g | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.12 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 7.5 mL | C(C)N(CC)CC | C6H15N
product | 4-chloro-2-diisopropylaminomethyleneamino-5-phenylethynylpyrimidine | 3.37 g | ClC1=NC(=NC=C1C#CC1=CC=CC=C1)N=CN(C(C)C)C(C)C | C19H21ClN4
